US04021451
3,4-Dihydro-N-methyl-1H-[ 1]benzothieno[2,3-c] pyran-1-ethylamine
A mixture of 3,4-dihydro-1H-[ 1]benzothieno[2,3-c]pyran-1-ethyl chloride (6.0 g), described in Example 35, and a saturated solution of methylamine in dry methanol (75 ml) is heated in a pressure bottle at 60° C. for 2 hr. The mixture is kept at room temperature for 2 days and then evaporated to dryness. The residue is dissolved in dilute hydrochloric acid and washed with ether. The free base is then liberated from the aqueous phase by the addition of 5% sodium hydroxide solution and extracted with ether. The extract is dried and concentrated to give the title compound, λmaxEtOH 231 nm (29,600), 261 nm(7580), 290 nm (2960), 298 nm (3140); nmr (CDCl 3) δ 2.25, 2.86, 5.00.

reactant | 3,4-dihydro-1H-[ 1]benzothieno[2,3-c]pyran 1-ethyl chloride | 6.0 g | C1OCCC2=C1SC1=C2C=CC=C1.C(C)Cl
reactant | methylamine | CN | CH5N
solvent | methanol | 75 ml | CO | CH4O
product | 3,4-Dihydro-N-methyl-1H-[ 1]benzothieno[2,3-c] pyran-1-ethylamine | CNCCC1OCCC2=C1SC1=C2C=CC=C1 | C14H17NOS
